US07163942B2
(R)-2-[Benzyl-(4-chloro-benzenesulfonyl)-amino]-2-phenyl-acetamide
To a solution of (R)-2-(4-chloro-benzenesulfonylamino)-2-phenyl-acetamide (350 mg, 1.1 mmol) in 4 mL of dimethylformamide are added benzylbromide (0.18 mL, 1.1 mmol) and potassium carbonate (179 mg, 1.3 mmol). The reaction is heated overnight at 50° C., poured into water/methylene chloride and extracted with methylene chloride. The combined organics are dried with sodium sulfate, concentrated in vacuo, and the resultant residue purified on silica gel chromatography to provide the title compound. C13 NMR (100 MHz, CDCl3) 50.3, 64.8, 127.6, 128.4, 128.6, 129.0, 129.1, 129.3, 129.4, 130.2, 133.9, 136.8, 138.6, 139.4, 171.7. MS 415.1 m/z (M+1).

reactant | (R)-2-(4-chloro-benzenesulfonylamino)-2-phenyl-acetamide | 1.1 mmol, 350 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H](C(=O)N)C1=CC=CC=C1 | C14H13ClN2O3S
reactant | benzylbromide | 1.1 mmol, 0.18 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.3 mmol, 179 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water methylene chloride | O.C(Cl)Cl
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (R)-2-[Benzyl-(4-chloro-benzenesulfonyl)-amino]-2-phenyl-acetamide | C(C1=CC=CC=C1)N([C@@H](C(=O)N)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C21H19ClN2O3S
